US07851473B2
(2) 1-[3-(3-Thienyl)-1,2,4-thiadiazol-5-yl]piperazine
To a solution of tert-butyl 4-[3-(3-thienyl)-1,2,4-thiadiazol-5-yl]piperazine-1-carboxylate (3.70 g, 10.5 mmol) in ethyl acetate (60 ml) was added a solution of 4 N hydrochloric acid in ethyl acetate (30 ml), and the mixture was stirred at room temperature for 22 hours. Hexane (200 ml) was poured to the reaction mixture, and a solid was separated by filtration. The obtained solid was dissolved in an aqueous saturated sodium hydrogen carbonate solution, followed by stirring at room temperature for 2 hours. Water was poured to the reaction mixture, and 1.86 g (70.4%) of the desired product as a solid was separated by filtration.

reactant | tert-butyl 4-[3-(3-thienyl)-1,2,4-thiadiazol-5-yl]piperazine-1-carboxylate | 10.5 mmol, 3.70 g | S1C=C(C=C1)C1=NSC(=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H20N4O2S2
reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | Hexane | 200 ml | CCCCCC | C6H14
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 1-[3-(3-Thienyl)-1,2,4-thiadiazol-5-yl]piperazine | S1C=C(C=C1)C1=NSC(=N1)N1CCNCC1 | C10H12N4S2
